US04156732
3-(4-Chloro-3-sulfamoylbenzoyl)-benzo[b]thiophene
5.1 g of powdered 4-chloro-3-sulfamoylbenzoyl chloride are introduced into a solution of 3 g benzo[b]thiophene in 50 ml anhydrous toluene, and subsequently, 12 g titanium tetrachloride are added with agitation. Agitation is continued for 15 minutes at room temperature, the mixture is heated to boiling for about 15 minutes, cooled and poured onto a water/ice suspension. Extraction is carried out then with 70 acetic ester, the organic phase is separated and stirred for 5 hours with an aqueous sodium bicarbonate solution having a pH of 8.5. After separation of the organic phase and drying thereof over magnesium sulfate, the solvent is distilled off and the residue crystallized from toluene. M.p. 154°-156° C.

reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 5.1 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | benzo[b]thiophene | 3 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetrachloride | 12 g | [Ti](Cl)(Cl)(Cl)Cl
product | 3-(4-Chloro-3-sulfamoylbenzoyl)-benzo[b]thiophene | ClC1=C(C=C(C(=O)C=2C3=C(SC2)C=CC=C3)C=C1)S(N)(=O)=O | C15H10ClNO3S2
